US07723329B2
Toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-propyl ester
A solution of 3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-propan-1-ol (12.9 g, 32.1 mmol), p-toluenesulfonyl chloride (24.6 g, 129 mmol) and triethylamine (37 mL, 270 mmol) in methylene chloride (300 mL) was stirred at ambient temperature under nitrogen. After 2 hours, a second portion of p-toluenesulfonyl chloride (12.1 g, 63.5 mmol) was added. The reaction was stirred for 2 more hours and then concentrated. The residue was partitioned in methylene chloride and aqueous sodium bicarbonate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography with 20-50% ethyl acetate in hexane, 100% ethyl acetate and then 100% methylene chloride (due to limited solubility). A yellow solid (13.0 g, 73.0%) was obtained as toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-propyl ester: MP: 162-4° C.; Mass Spectrum (−EI, [M−H]−) m/z 554. 1HNMR (500 MHz, DMSO-d6): δ8.52-8.54 (m, 1H), 8.31 (d, 1H, J=8.18 Hz), 8.09-8.11 (m, 1H), 7.97-8.00 (m, 2H), 7.62-7.73 (m, 5H), 7.35 (d, 2H, J=7.93 Hz), 6.92 (dd, 1H, J=9.15 Hz and 2.81 Hz), 6.73 (d, 1H, J=2.80 Hz), 5.22 (s, 2H), 4.09 (t, 2H, J=5.98 Hz), 3.79-3.82 (m, 2H), 2.29 (s, 3H), 1.91-1.97 ppm (m, 2H). Elemental Analysis for C27H25NO8S2: Calcd: C, 58.37; H, 4.54; N, 2.52; Found: C, 58.13; H, 4.43; N, 2.41.

reactant | 3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-propan-1-ol | 32.1 mmol, 12.9 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC=1C=C(OCCCO)C=CC1[N+](=O)[O-] | C20H19NO6S
reactant | p-toluenesulfonyl chloride | 129 mmol, 24.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 270 mmol, 37 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 63.5 mmol, 12.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-propyl ester | 13.0 g, 73.0% | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC=1C=C(OCCCOS(=O)(=O)C2=CC=C(C=C2)C)C=CC1[N+](=O)[O-] | C27H25NO8S2
